US05236936
A mixture of 3-amino-1-phenyl-2-buten-1-one (2.3 g) and 5-(1-hydroxypropylidene)-2,2-dimethyl-1,3-dioxane-4,6-dione (4.0 g) was heated at 120° C. for 1 hour. The mixture was cooled to ambient temperature and the residue was purified by flash chromatography eluting with dichloromethane/methanol (19:1 v/v) to give 3-benzoyl-1,4-dihydro-6-ethyl-2-methyl-4-oxopyridine (0.95 g) as a solid, m.p. 203° C.; NMR (d6 -DMSO): 1.2(t, 3H), 2.07(s, 3H), 2.5(q, 2H), 5.96(s, 1H), 7.44-7.50(m, 2H), 7.57-7.60(m, 1H), 7.72-7.76(m, 2H), 11.3(broad s, 1H); mass spectrum (chemical ionisation, ammonia): 242(M+H)+.

reactant | 3-amino-1-phenyl-2-buten-1-one | 2.3 g | NC(=CC(=O)C1=CC=CC=C1)C | C10H11NO
reactant | 5-(1-hydroxypropylidene)-2,2-dimethyl-1,3-dioxane-4,6-dione | 4.0 g | OC(CC)=C1C(OC(OC1=O)(C)C)=O | C9H12O5
product | 3-benzoyl-1,4-dihydro-6-ethyl-2-methyl-4-oxopyridine | 0.95 g | C(C1=CC=CC=C1)(=O)C1=C(NC(=CC1=O)CC)C | C15H15NO2
